US05409946
3-Methyl-5-formyl-isoxazole (prepared following the procedure of Tetrahedron Lett., (32), 2961-4, 1979) is reacted with methylamine and succinic anhydride to provide 3-methyl-5-(1-methyl-3-carboxy-5-oxo-2-pyrrolidinyl)-isoxazole. This acid is converted to the ester and then selectively reduced with sodium borohydride to give the corresponding alcohol, which is reacted with methanesulfonyl chloride. The resulting mesylate is converted to the fluoromethyl isoxazole by treatment with tetrabutylammonium fluoride. Following the procedure of Example 24b, the 3-methyl-5-(1-methyl-3-fluoromethyl-5-oxo-2-pyrrolidinyl)-isoxazole is reacted with borane, and the resulting product is converted to the oxalate salt to afford the title compound.

reactant | 3-Methyl-5-formyl-isoxazole | CC1=NOC(=C1)C=O | C5H5NO2
reactant | methylamine | CN | CH5N
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
product | 3-methyl-5-(1-methyl-3-carboxy-5-oxo-2-pyrrolidinyl)-isoxazole | CC1=NOC(=C1)C1N(C(CC1C(=O)O)=O)C | C10H12N2O4
